US07713994B2
In a 75-mL Parr bottle, 1-(4-nitrophenyl)piperidine-4-carboxylic acid (0.13 g, 0.52 mmol) is dissolved in ethanol/ethyl acetate (1:1, 30 mL). Concentrated hydrochloric acid (0.5 mL) is added. After degassing the mixture with dry ice, palladium on carbon (10%, 30 mg) is added. The reaction mixture is shaken overnight under 50 psi hydrogen, then filtered through a pad of diatomaceous earth and concentrated under reduced pressure to give 1-(4-aminophenyl)piperidine-4-carboxylic acid dihydrochloride.

reactant | 1-(4-nitrophenyl)piperidine-4-carboxylic acid | 0.52 mmol, 0.13 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | ethanol ethyl acetate | 30 mL | C(C)O.C(C)(=O)OCC
product | 1-(4-aminophenyl)piperidine-4-carboxylic acid dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O | InChI=1S/C12H16N2O2.2ClH/c13-10-1-3-11(4-2-10)14-7-5-9(6-8-14)12(15)16;;/h1-4,9H,5-8,13H2,(H,15,16);2*1H
